US07501411B2
Step 5: N-Ethyl 3-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]benzamide
3-{tert-Butoxycarbonyl-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-amino}benzoic acid (42 mg, 0.10 mmol), ethylamine (12 M aq., 42 μL, 0.50 mmol), and triethylamine (28 μL, 0.20 mmol) are stirred in DMF (0.30 mL) and PyBOP (57 mg, 0.11 mmol) is added. Stirring is continued overnight. The reaction mixture is partitioned between EtOAc (7 mL) and NaHCO3 (sat. aq., 7 mL) and the layers are separated. The combined organic layers are washed with brine (2×5 mL) and dried over Na2SO4. Evaporation of the solvent affords an oil which is dissolved in MeOH (0.3 mL) containing HCl (12 M aq., 0.15 mL) and stirred overnight. Triethylamine (0.25 mL) and EtOH (2 mL) are added and the solvents removed under reduced pressure. The residue is purified by preparative HPLC to afford the title compound as a white solid (7 mg). 1H NMR (DMSO-d6, 400 MHz): δ=13.29 ppm (s, 0.8H); 10.01 (s, 0.9H); 8.77 (s, 1.0H); 8.65 (s, 1.0H); 8.52 (s, 1.1H); 8.41-8.37 (m, 2.1H); 8.25 (s, 1.0H); 8.08 (d, 1.0H); 7.47 (d, 1.0H); 7.41 (t, 1.1H); 7.04-7.03 (m, 0.5H); 3.32 (s, 29.2H (water)); 1.14 (t, 3.5H). LCMS: Rt=0.95 min (100%), m/z (ESI) 349 (M+H)+.

reactant | 3-{tert-Butoxycarbonyl-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-amino}benzoic acid | 0.10 mmol, 42 mg | C(C)(C)(C)OC(=O)N(C=1C=C(C(=O)O)C=CC1)C=1C=2N(C(=CN1)C=1C=NNC1)N=CN2 | C20H19N7O4
reactant | ethylamine | 0.50 mmol, 12 M, 42 μL | C(C)N | C2H7N
reactant | PyBOP | 0.11 mmol, 57 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HCl | 12 M, 0.15 mL | Cl | ClH
solvent | DMF | 0.30 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 0.3 mL | CO | CH4O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | Triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.20 mmol, 28 μL | C(C)N(CC)CC | C6H15N
product | N-Ethyl 3-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]benzamide | 7 mg | C(C)NC(C1=CC(=CC=C1)NC=1C=2N(C(=CN1)C=1C=NNC1)N=CN2)=O | C17H16N8O
